US07115611B2
In analogy to the procedures described in example 26B] and 26C], 2-(4-aminomethyl-3-chloro-phenoxy)-2-methyl-propionic acid ethyl ester (prepared from 2-chloro-4-hydroxy-benzaldehyde by reaction with ethyl-bromoisobutyrate as described in example 52A] followed by oxim formation and reduction as described in examples 97A] and 97B]) was reacted with 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid (prepared from 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (example 108B]) by saponification in analogy to example 53B]) to give 2-[3-chloro-4-({[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as amorphous light yellow solid.

reactant | 2-(4-aminomethyl-3-chloro-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)CN)Cl)=O | C13H18ClNO3
reactant | 2-chloro-4-hydroxy-benzaldehyde | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | ethyl-bromoisobutyrate | C(C)CC(C(=O)[O-])(C)Br
reactant | 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid | FC(C1=CC(=NC=C1C(=O)O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C14H7F6NO2
reactant | 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C15H9F6NO2
product | 2-[3-chloro-4-({[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)CNC(=O)C=1C=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)Cl)=O | C27H23ClF6N2O4
